US04764623
2,2,3,3,4,4,4-Heptafluoro-N-[2-(1H-tetrazol-5-ylmethyl)phenyl]butanamide
A mixture of 2,2,3,3,4,4,4-heptafluoro-N-[2-(cyanomethyl)phenyl]butanamide (15 g), sodium azide (14.85 g), ammonium chloride (12.22 g) and dimethylformamide (200 mL) was heated in a 130° C. oil bath under a nitrogen atmosphere overnight. The reaction mixture was cooled to room temperature, water (100 mL) was added and the product was extracted with ethylacetate (3×200 mL). The combined extracts were dried over Na2SO4, filtered and concentrated with a rotary evaporator. The brown residue was purified by high pressure liquid chromatography to give a white solid. The solid was triturated with diethyl ether to give 3.2 g of the title compound, m.p. 117°-178° C.

reactant | 2,2,3,3,4,4,4-heptafluoro-N-[2-(cyanomethyl)phenyl]butanamide | 15 g | FC(C(=O)NC1=C(C=CC=C1)CC#N)(C(C(F)(F)F)(F)F)F | C12H7F7N2O
reactant | sodium azide | 14.85 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 12.22 g | [Cl-].[NH4+]
reactant | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2,2,3,3,4,4,4-Heptafluoro-N-[2-(1H-tetrazol-5-ylmethyl)phenyl]butanamide | 3.2 g | FC(C(=O)NC1=C(C=CC=C1)CC1=NN=NN1)(C(C(F)(F)F)(F)F)F | C12H8F7N5O
